US03962377
5-tert.-Butyl-2,3-dimethyl-4-hydroxybenzyl chloride
30 grams of 6-tert.-butyl-2,3-dimethylphenol dissolved in 100 ml of toluene was added to 2.7 ml of concentrated hydrochloric acid containing 3.3 ml of concentrated sulfuric acid at 5° to 10°C. 26 grams of methylal was added dropwise to the above vigorously stirred dispersion over a period of about 15 minutes. After this the reaction mixture was heated at 36° to 37° for 2 hours while bubbling anhydrous gaseous hydrogen chloride through the reaction mixture. The reaction temperature was allowed to drop to 27° during the following 2 hours while continuing to bubble anhydrous hydrogen chloride through the reaction mixture. The acidic aqueous phase was separated from the reaction mixture after being extracted with toluene. The combined toluene phases were washed well with cold water and dried over anhydrous sodium sulfate. After filtering free of drying agent, the clear filtrate was freed of solvent by distillation at reduced pressures the resulting residue being crystallized from petroleum ether yielding the desired compound in the form of light yellow crystals melting at 92° to 95°C.

reactant | 6-tert.-butyl-2,3-dimethylphenol | 30 grams | C(C)(C)(C)C1=CC=C(C(=C1O)C)C | C12H18O
reactant | hydrochloric acid | 2.7 ml | Cl | ClH
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methylal | 26 grams | COCOC | C3H8O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5-tert.-Butyl-2,3-dimethyl-4-hydroxybenzyl chloride | C(C)(C)(C)C=1C(=C(C(=C(CCl)C1)C)C)O | C13H19ClO
